US08440662B2
Step 4: 7-Bromo-6-fluoro-1H-quinazoline-2,4-dione
To a 100 mL round bottom flask, 2-amino-4-bromo-5-fluoro-benzoic acid (0.7 g, 0.003 mol) and urea (1.07 g, 0.0018 mol) were added. The reaction mixture was stirred at 200° C. for 2 h. The reaction mixture was allowed to reach 100° C. and water was added. The aqueous reaction mixture was refluxed for 5-10 min, cooled to room temperature, to get the precipitate. The solid was filtered and dried to afford the title compound (400 mg, 51%). This material was taken for next step without any further purification.

reactant | 2-amino-4-bromo-5-fluoro-benzoic acid | 0.003 mol, 0.7 g | NC1=C(C(=O)O)C=C(C(=C1)Br)F | C7H5BrFNO2
reactant | urea | 0.0018 mol, 1.07 g | NC(=O)N | CH4N2O
solvent | water | O | H2O
product | 7-Bromo-6-fluoro-1H-quinazoline-2,4-dione | 400 mg, 51% | BrC1=C(C=C2C(NC(NC2=C1)=O)=O)F | C8H4BrFN2O2
